US05808108
3,9-Diethyl-3,9-dipropionyloxymethyl-1,5,7,11-tetraoxaspiro[5.5]undecane (DEDPM)
This SOC compound was prepared by reacting the parent SOC, 3,9-diethyl-3,9-dihydroxymethyl-1,5,7,11-tetraoxaspiro[5.5]undecane prepared as in Example 1 (DEDHM-SOC), with propionic anhydride in the presence of pyridine. A 100 mL one-neck flask was charged with DEDHM-SOC (5.0 g, 0.018 mol) and pyridine (25 mL) under N2. After DEDHM-SOC was dissolved in pyridine, propionic anhydride (34.8 mL, 0.27 mol) was added. The mixture was stirred at room temperature for 4 h. TLC revealed the disappearance of staring material and a new product spot (less polar). Pyridine and unreacted propionic anhydride were removed by distillation under reduced pressure. The pot temperature should not exceed 40° C. during the distillation. The residual viscous liquid was dried in vacuo for 3 h, and it crystallized upon standing at room temperature. The crystals were purified by recrystallization from cyclohexane. 18 mL of cyclohexane were used to dissolve the crystals under reflux. The solution was cooled to room temperature, then kept in a refrigerator overnight to crystallize. The crystals formed were collected by filtration, washed with cyclohexane (3×5 mL), and dried in vacuo. 5.0 g of white crystals were obtained as product (71.1% of theory). m.p. (DSC): 68.1° C.; 1H NMR (CDCl3, 300 MHz) δ0.81 (t, 6H), 1.11 (t, 6H); 1.35 (q, 4H), 2.32 (q, 4H), 3.73-3.81 (m, 8H), 4.15 (s, 4H); 13C NMR (CDCl3, 75 MHz) δ7.10, 9.05, 23,38, 27.44, 35.42, 63.20, 66.74, 67.10, 114.66, 174.06. Anal. calcd. for C19H32O8 ; C, 58.75; H, 8.30. Found: C, 58.86; H, 8.53.

reactant | 3,9-diethyl-3,9-dihydroxymethyl-1,5,7,11-tetraoxaspiro[5.5]undecane | C(C)C1(COC2(OC1)OCC(CO2)(CO)CC)CO | C13H24O6
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | propionic anhydride | 0.27 mol, 34.8 mL | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 3,9-Diethyl-3,9-dipropionyloxymethyl-1,5,7,11-tetraoxaspiro[5.5]undecane | 5.0 g | C(C)C1(COC2(OC1)OCC(CO2)(COC(CC)=O)CC)COC(CC)=O | C19H32O8
